US07476399B2
2-Methyl-benzooxazole-5-carboxylic acid (1-propyl-butyl)-amide
2-methyl benzooxazol-5-carboxylic acid: A mixture of 3-amino-4-hydroxybenzoic acid (1.5 g, 9.79 mmol) and trimethyl orthoacetate (15 mL, large excess) was heated at 65° C. for 5 hrs under argon. The reaction mixture was cooled to room temperature, filtered, washed with hexanes. The filtrate was concentrated in vacuo to afford the product as a yellow solid (1.4 g, 80%): 1H NMR (500 MHz, CD3OD) δ 8.26 (d, J=1.7 Hz, 1H), 8.07 (dd, J=8.5, 1.6 Hz, 1H), 7.67 (d, J=8.2 Hz, 1H), 2.67 (s, 1H); MS(APCI, M+1): 178.10.

reactant | 2-methyl benzooxazol-5-carboxylic acid | CC=1OC2=C(N1)C=C(C=C2)C(=O)O | C9H7NO3
reactant | 3-amino-4-hydroxybenzoic acid | 9.79 mmol, 1.5 g | NC=1C=C(C(=O)O)C=CC1O | C7H7NO3
reactant | trimethyl orthoacetate | 15 mL | C(C)(OC)(OC)OC | C5H12O3
product | 2-Methyl-benzooxazole-5-carboxylic acid (1-propyl-butyl)-amide | 1.4 g, 80% | C(CC)C(CCC)NC(=O)C=1C=CC2=C(N=C(O2)C)C1 | C16H22N2O2
